US07846887B2
Ethyl 2-(4-oxo-4-(2,6,6-trimethylcyclohex-3-enyl)butan-2-ylamino)-3-(4-oxo-4-(2,6,6-trimethylcyclohex-3-enyl)butan-2-ylthio)propanoate (Compound 3)
A solution of 1-(2,6,6-trimethylcyclohex-3-enyl)but-2-en-1-one (83.0 g, 0.50 mol, 2 equiv.), ethyl diisopropylamine (32.3 g, 0.25 mol, 1 equiv.) and L-Cystein ethyl ester hydrochloride (46.5 g, 0.25 mol, 1 equiv.) in EtOH (600 ml) is heated to 60° C. during 44 h. The solvent is removed in vacuo and the residue dissolved in methyl t-butyl ether. The solution is washed with dilute aq. NaCl, dried over MgSO4 and concentrated. The residue is purified by chromatography on SiO2 to yield 85.5 g (71%) of the title compound as orange oil.

reactant | 1-(2,6,6-trimethylcyclohex-3-enyl)but-2-en-1-one | 0.50 mol, 83.0 g, 2 equiv. | CC1C(C(CC=C1)(C)C)C(C=CC)=O | C13H20O
reactant | ethyl diisopropylamine | 0.25 mol, 32.3 g, 1 equiv. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | L-Cystein ethyl ester hydrochloride | 0.25 mol, 46.5 g, 1 equiv. | Cl.C(C)OC([C@@H](N)CS)=O
solvent | EtOH | 600 ml | CCO | C2H6O
product | Ethyl 2-(4-oxo-4-(2,6,6-trimethylcyclohex-3-enyl)butan-2-ylamino)-3-(4-oxo-4-(2,6,6-trimethylcyclohex-3-enyl)butan-2-ylthio)propanoate | 85.5 g, 71% | O=C(CC(C)NC(C(=O)OCC)CSC(C)CC(C1C(C=CCC1(C)C)C)=O)C1C(C=CCC1(C)C)C | C31H51NO4S
